US07273936B2
A solution of of 2-bromo-1-(6-methyl-pyridin-2-yl)-2-quinolin-6-yl-ethanone hydrobromide (94 mg, 0.36 mmol), and potassium acetate (70 mg, 0.72 mmol, 2 equiv) in dimethylformamide (2 mL) is heated to 60° C. for 1 hour. The resulting reaction mixture is cooled to ambient temperature, treated with saturated aqueous sodium hydrogen carbonate, and extracted with ethyl acetate. The organics are washed with brine, dried with magnesium sulfate and concentrated in vacuo to provide acetic acid 2-(6-methyl-pyridin-2-yl)-2-oxo-1-quinolin-6-yl-ethyl ester.

reactant | 2-bromo-1-(6-methyl-pyridin-2-yl)-2-quinolin-6-yl-ethanone hydrobromide | 0.36 mmol, 94 mg | Br.BrC(C(=O)C1=NC(=CC=C1)C)C=1C=C2C=CC=NC2=CC1
reactant | potassium acetate | 0.72 mmol, 70 mg, 2 equiv | C(C)(=O)[O-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | acetic acid 2-(6-methyl-pyridin-2-yl)-2-oxo-1-quinolin-6-yl-ethyl ester | CC1=CC=CC(=N1)C(C(C=1C=C2C=CC=NC2=CC1)OC(C)=O)=O | C19H16N2O3
